* no_fill floating drive N; diagnostic capacitor-network AC only
C18 0 N 4.6682300000000003e-19
C19 0 P 2.13647e-16
C186 0 N 2.3051600000000003e-16
C187 0 P 4.8968499999999999e-16
C223 0 N 1.2964900000000001e-15
C244 0 N 1.7038100000000002e-17
C245 0 P 1.02723e-17
C247 0 N 8.2678300000000008e-18
C248 0 P 4.6766900000000003e-17
C250 N P 3.4877500000000003e-15
C251 N 0 1.5523500000000002e-16
C252 P 0 4.6316700000000004e-16
VP P 0 DC 0 AC 0
VN N 0 DC 0 AC 1
.control
set numdgt=17
ac lin 1 1Meg 1Meg
let cp = -imag(i(VP))/(2*pi*1e6)
let cn = -imag(i(VN))/(2*pi*1e6)
print cp cn
quit
.endc
.end
